US05672567
1.0 g of 1,2,4-triazole was dissolved in 30 ml THF and cooled with a dry ice bath. As the temperature decreased, a solid fell out of the solution. 5.8 ml of a 2.5M solution of n-butyl lithium in hexane were added while keeping the temperature below -30° C. Upon completion of addition of the butyl lithium, the dry ice bath was replaced with an ice water bath and the reaction mixture was stirred at 0° C. to 4° C. for one hour. The reaction mixture was cooled to -70° C. and 2.7 g of 2-trifluoromethylbenzaldehyde was added. The reaction mixture was allowed to warm up to room temperature overnight. 1.8 g of trimethylacetyl chloride were added, dissolving the solid and giving a yellow-white color to the reaction mixture. The reaction mixture was stirred at room temperature for a total of about 3.5 hours. The reaction mixture was then quenched with ice cold water in an ice bath and extracted twice with diethyl ether. The combined organic layers were dried (MgSO4) and concentrated to an oil. The oil was purified on a silica gel column, eluted with a 1:1 mixture of diethyl ether and hexane, to yield about 1.5 g of 2-(1-trimethylacetoxy-2'-trifluoromethylbenzyl)-1,2,4-triazole.

reactant | 1,2,4-triazole | 1.0 g | N1N=CN=C1 | C2H3N3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | 2-trifluoromethylbenzaldehyde | 2.7 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | trimethylacetyl chloride | 1.8 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(1-trimethylacetoxy-2'-trifluoromethylbenzyl)-1,2,4-triazole | about 1.5 g | CC(C(=O)OC1(CN2N=CN=C2)C(C=CC=C1)C(F)(F)F)(C)C | C15H18F3N3O2
